US07563822B2
To a stirred solution of 420 mg of 3-[[2-(2-tert-butylsulfamoyl-4-isopropylphenyl)ethyl]sulfamoyl]-4-methoxybenzamide in 30 mL of dichloromethane were added 0.48 mL of triethylamine and 0.245 mg of trifluoroacetic anhydride under ice-cooling, and the mixture was stirred at room temperature overnight. To the reaction mixture was added 1 mL of triethylamine, and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture were added water and 30 mL of 1 mol/L hydrochloric acid, and the mixture was extracted three times with 30 mL of dichloromethane. The organic layers were combined, washed with water, and brine, and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, ethyl acetate and hexane were added to the residue, and the crystal was collected by filtration to give 325 mg of N-tert-butyl-2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylbenzenesulfonamide.

reactant | 3-[[2-(2-tert-butylsulfamoyl-4-isopropylphenyl)ethyl]sulfamoyl]-4-methoxybenzamide | 420 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)C(C)C)CCNS(=O)(=O)C=1C=C(C(=O)N)C=CC1OC | C23H33N3O6S2
reactant | triethylamine | 0.48 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.245 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 mol/L, 30 mL | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-tert-butyl-2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylbenzenesulfonamide | 325 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)C(C)C)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC | C23H31N3O5S2
